US06194406B1
2-Methoxy-5-methylsulfinylbenzoic Acid
Combine methyl 2-methoxy-5-methylsulfinylbenzoate (2.37 g, 12.0 mmol) and a 1 M aqueous solution of potassium hydroxide (13 mL, 13 mmol). Heat to reflux. After 2 hours, cool to ambient temperature and adjust the pH to about 2 using a 1 M aqueous hydrochloric acid (14.5 mL, 14.5 mmol). Evaporate in vacuo to give a solid. Combine the solid and dichloromethane and stir. Decant the solvent and add more dichloromethane. Again decant and combine with the first decantate, dry over Na2SO4, filter, and evaporate in vacuo to to give the -title compound: mp; 114-116° C.

reactant | methyl 2-methoxy-5-methylsulfinylbenzoate | 12.0 mmol, 2.37 g | COC1=C(C(=O)OC)C=C(C=C1)S(=O)C | C10H12O4S
reactant | potassium hydroxide | 13 mmol, 13 mL | [OH-].[K+]
reactant | hydrochloric acid | 14.5 mmol, 1 M, 14.5 mL | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Methoxy-5-methylsulfinylbenzoic Acid | COC1=C(C(=O)O)C=C(C=C1)S(=O)C | C9H10O4S
